US08026359B2
Step A: Preparation of N-(3-fluorophenyl)-6-iodo-4-pyrimidinamine
A mixture of 4,6-diiodopyrimidine (1.0 g, 3.01 mmol), 3-fluoroaniline (290 μL, 3.01 mmol), N,N-diisopropylethylamine (782 μL, 4.52 mmol) and n-butanol (3 mL) under nitrogen was stirred at 120° C. for 4 h. After cooling to room temperature, the solution was poured into water and extracted with ethyl acetate. The organic layer was washed once with 1 N hydrochloric acid, followed by brine, dried and concentrated to yield 0.68 g of title compound.

reactant | 4,6-diiodopyrimidine | 3.01 mmol, 1.0 g | IC1=NC=NC(=C1)I | C4H2I2N2
reactant | 3-fluoroaniline | 3.01 mmol, 290 μL | FC=1C=C(N)C=CC1 | C6H6FN
reactant | N,N-diisopropylethylamine | 4.52 mmol, 782 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | n-butanol | 3 mL | C(CCC)O | C4H10O
solvent | water | O | H2O
product | N-(3-fluorophenyl)-6-iodo-4-pyrimidinamine | 0.68 g | FC=1C=C(C=CC1)NC1=NC=NC(=C1)I | C10H7FIN3
